US06794397B2
6-Chloro-N-(4-chloro-6-methyl-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 4-chloro-2-methyl-6-nitroaniline (204 mg, 1.09 mmol) and 6-chloronicotinoyl chloride (192 mg, 1.09 mmol) and obtained as a light yellow solid as described in Example 62. 1H NMR (CDCl3): 9.13 (s, 1H), 8.96 (dd, J=0.6, 2.4 Hz, 1H), 8.20 (dd, J=2.7, 8.4 Hz, 1H), 7.93 (d, J=2.4 Hz, 1H), 7.59 (d, J=2.4 Hz, 1H), 7.51 (dd, J=0.6, 8.1 Hz, 1H), 2.38 (s, 3H).

reactant | 4-chloro-2-methyl-6-nitroaniline | 1.09 mmol, 204 mg | ClC1=CC(=C(N)C(=C1)[N+](=O)[O-])C | C7H7ClN2O2
reactant | 6-chloronicotinoyl chloride | 1.09 mmol, 192 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
product | 6-Chloro-N-(4-chloro-6-methyl-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1C)Cl)[N+](=O)[O-] | C13H9Cl2N3O3
